US08685974B2
To a mixture of 3-(dimethylamino)-1-(5-chloro-2-thienyl)-2-[2-(methylsulfanyl)pyrimidin-4-yl]prop-2-en-1-one (1 eq, 96 mmol) in 300 mL ethanol was added dropwise hydrazine hydrate (1.5 eq, 144 mmol) and then triethylamine (1.5 eq, 144 mmol). The mixture was heated under reflux for 2 h and then overnight at room temperature. The solvent was then slowly poured in 1 L of water. The resulting precipitate was filtered and dried to afford 24 g of 4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidine (80% yield).

reactant | 3-(dimethylamino)-1-(5-chloro-2-thienyl)-2-[2-(methylsulfanyl)pyrimidin-4-yl]prop-2-en-1-one | 96 mmol, 1 eq | CN(C=C(C(=O)C=1SC(=CC1)Cl)C1=NC(=NC=C1)SC)C | C14H14ClN3OS2
reactant | hydrazine hydrate | 144 mmol, 1.5 eq | O.NN
reactant | triethylamine | 144 mmol, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 1 L | O | H2O
product | 4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]-2-(methylsulfanyl)pyrimidine | 24 g, 80% yield | ClC1=CC=C(S1)C1=NNC=C1C1=NC(=NC=C1)SC | C12H9ClN4S2
